US04816470
(a) 4-Amino-N-methylbenzenemethanesulphonamide, hydrochloride
A suspension of N-methyl-4-nitrobenzenemethanesulphonamide (30 g) in ethanol (150 ml), water (300 ml) and hydrochloric acid (2N, 65 ml) was hydrogenated over 10% palladium oxide on charcoal (7.5 g, 50% paste with water) until hydrogen uptake ceased (9.75 l). The catalyst was removed by filtration through "hyflo" and the filter pad was washed with water (30 ml). The filtrate was evaporated under reduced pressure to give the title compound as a pale yellow powder (28.2 g) m.p. 143°-144° C.

reactant | N-methyl-4-nitrobenzenemethanesulphonamide | 30 g | CNS(=O)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O4S
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 2N, 65 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
catalyst | palladium oxide | [Pd]=O
product | 4-Amino-N-methylbenzenemethanesulphonamide, hydrochloride | 28.2 g | Cl.NC1=CC=C(C=C1)CS(=O)(=O)NC | InChI=1S/C8H12N2O2S.ClH/c1-10-13(11,12)6-7-2-4-8(9)5-3-7;/h2-5,10H,6,9H2,1H3;1H
